US09382237B2
5-amino-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide (1.0 g) was suspended in 10 mL of ethanol and benzaldehyde (463 μL, 1.0 eq.) and piperidine (0.10 eq, 47 μL) was added. Stirred the reaction at reflux until starting material was absent and confirmed by HPLC. After reaction was complete (18 hrs) it was brought to room temperature and filtered to obtain 5-(benzylideneamino)-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide as a yellow to orange powder. The product was washed with ethanol to remove any excess benzaldehyde. Product was allowed to dry under vacuum for 1 hr (800 mg, 57% yield).

reactant | 5-amino-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide | 1.0 g | NC1=C(C(=NN1)NC=1C=NC=CC1)C(=O)N | C9H10N6O
reactant | benzaldehyde | 463 μL, 1.0 eq. | C(C1=CC=CC=C1)=O | C7H6O
reactant | piperidine | 47 μL, 0.10 eq | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(benzylideneamino)-3-(pyridin-3-ylamino)-1H-pyrazole-4-carboxamide | 57% yield | C(C1=CC=CC=C1)=NC1=C(C(=NN1)NC=1C=NC=CC1)C(=O)N | C16H14N6O
